US06916804B2
N-(2-{[6-Chloro-2-(4-chlorophenyl)pyrimidin-4-yl]amino}ethyl)acetamide (32)
N-Acetylethylenediamine (1.02 g) was dissolved in ethanol (250 ml) and 4,6-dichloro-2-(4-chlorophenyl)pyrimidine (2.5 g) then triethylamine (1.35 ml) added. The mixture was heated to 85° C. with stirring for 48 hrs. The solvent was then removed in vacuo and purified by column chromatography on silica gel eluting first with ethyl acetate then a mixture of ethyl acetate and methanol (9:1 v/v) to furnish the title compound (1.29 g).

reactant | N-Acetylethylenediamine | 1.02 g | C(C)(=O)NCCN | C4H10N2O
reactant | 4,6-dichloro-2-(4-chlorophenyl)pyrimidine | 2.5 g | ClC1=NC(=NC(=C1)Cl)C1=CC=C(C=C1)Cl | C10H5Cl3N2
reactant | triethylamine | 1.35 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | N-(2-{[6-Chloro-2-(4-chlorophenyl)pyrimidin-4-yl]amino}ethyl)acetamide | 1.29 g | ClC1=CC(=NC(=N1)C1=CC=C(C=C1)Cl)NCCNC(C)=O | C14H14Cl2N4O
